US06759554B2
1-Phenylpurine
Using the general procedure, purine (0.120 g, 1.00 mmol) was coupled with iodobenzene (225 μL, 2.00 mmol) using CuI (9.5 mg, 0.050 mmol, 5.0 mol %), Cs2CO3 (2.1 mmol), trans-N,N′-dimethyl-1,2-cyclohexanediamine (32 μL, 0.20 mmol, 20 mol %) and dimethylformamide (1.0 mL) to give the crude product. Column chromatography (2×15 cm, hexane:ethyl acetate 1:2) provided 0.136 g (69% yield) of the product as a white solid. 1H NMR (400 MHz, CDCl3): δ8.00 (d, J=0.9 Hz, 1H), 7.52 (m, 3H), 7.42 (m, 5H), 6.73 (dd, J=0.6 Hz and J=3.3 Hz, 1H), 7.60 (m, 2H), 7.48 (m, 1H).

reactant | purine | 1.00 mmol, 0.120 g | N1=CN=C2N=CNC2=C1 | C5H4N4
reactant | iodobenzene | 2.00 mmol, 225 μL | IC1=CC=CC=C1 | C6H5I
reactant | Cs2CO3 | 2.1 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | trans-N,N′-dimethyl-1,2-cyclohexanediamine | 0.20 mmol, 32 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | CuI | 0.050 mmol, 9.5 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 1-Phenylpurine | 0.136 g, 69% yield | C1(=CC=CC=C1)N1C=NC2=NC=NC2=C1 | C11H8N4
